US04178379
B. 3-(3,4-Dichlorophenyl)-7-[(3,4-dichlorophenyl)-methylene]-2,4,6,7-tetrahydro-1-propylthiopyrano[4,3-c]pyrazole
A suspension of tetrahydro-3,5-bis-(3,4-dichlorophenylmethylene)-4H-thiopyran-4-one (6.5 g, 15 mmole) and n-propylhydrazine (1.1 g, 15 mmole) in methanol/chloroform (1:1, 250 ml) is heated at reflux temperature overnight. When the reaction mixture is slightly cooled, unreacted starting material precipitates out and is removed (about 2.2 g) by filtration. The filtrate is concentrated in vacuo and dissolved in CHCl3 and washed with dilute HCl and water. The organic layer is dried (anhydrous MgSO4) and concentrated in vacuo to give 5 g of a semi-solid material. This is applied to a wet-packed (hexane) Al2O3 column (neutral, activity I), and eluted with 0-100% ether/hexane. The major product is obtained eluting with 10-40% ether/hexane. The later fractions, eluted with 50-80% ether/hexane, are combined, concentrated and the residue crystallized from MeOH/CHCl3 to give 0.4 g of the product in crystalline form (99% pure), m.p. 161°-162.5° C.

reactant | tetrahydro-3,5-bis-(3,4-dichlorophenylmethylene)-4H-thiopyran-4-one | 15 mmole, 6.5 g | ClC=1C=C(C=CC1Cl)C=C1CSCC(C1=O)=CC1=CC(=C(C=C1)Cl)Cl | C19H12Cl4OS
reactant | n-propylhydrazine | 15 mmole, 1.1 g | C(CC)NN | C3H10N2
solvent | methanol chloroform | 250 ml | CO.C(Cl)(Cl)Cl
product | 3-(3,4-Dichlorophenyl)-7-[(3,4-dichlorophenyl)-methylene]-2,4,6,7-tetrahydro-1-propylthiopyrano[4,3-c]pyrazole | 5 g | ClC=1C=C(C=CC1Cl)C1C2=C(N(N1)CCC)C(CSC2)=CC2=CC(=C(C=C2)Cl)Cl | C22H20Cl4N2S
